US05166367
7-[3-[[(2,3-Dihydro-6-acetoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
7-[3-[[(2,3-Dihydro-6-hydroxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one hydrochloride (0.10 g, 0.24 mmole), prepared as in example 5 above, was dissolved in 50 ml of glacial acetic acid and 3.05 ml (43 mmole) of acetyl chloride added in portions over a 30 minute period, during which the reaction mixture was gently warmed with a heat gun. The solvent and excess reagent were then removed in vacuum and diethyl ether added. Upon standing overnight, 0.030 g of the title compound as a monohydrochloride, m.p. 175° C., crystallized.

reactant | 7-[3-[[(2,3-Dihydro-6-hydroxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one hydrochloride | 0.24 mmole, 0.10 g | Cl.OC1=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C=C1
reactant | acetyl chloride | 43 mmole, 3.05 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 7-[3-[[(2,3-Dihydro-6-acetoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | C(C)(=O)OC1=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C=C1 | C23H23NO7
